US07465815B2
N-(3-(Biphenyl-4-yl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide
Using 3-(biphenyl-4-yl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-amine obtained in Reference Example 309, the title compound was synthesized in the same manner as in Example 1. Yield: 71%. Melting point: 218-219° C. (ethyl acetate).

reactant | 3-(biphenyl-4-yl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-amine | C1(=CC=C(C=C1)C1COC2=C1C(=C(C(=C2C)C)N)C)C2=CC=CC=C2 | C23H23NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-(Biphenyl-4-yl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide | Yield: 71% | C1(=CC=C(C=C1)C1COC2=C1C(=C(C(=C2C)C)NC(CC(C)(C)C)=O)C)C2=CC=CC=C2 | C29H33NO2
